US07893074B2
To a solution of 1-(3-Methoxy-4-nitro-phenyl)-piperidin-4-ol (300 mg, 1.2 mmol) in N,N-dimethylformamide (3.0 mL), sodium hydride (1.52 g, 3.8 mmol) is added. After stirring, 2-bromoethyl methyl ether (150 μl, 1.6 mmol) is added and the mixture is further stirred at 70° C. for 15 hours. After addition of saturated aqueous ammonium chloride, the mixture is poured into water and extracted twice with ethyl acetate. The organic layer is washed with brine, dried over sodium sulfate, and evaporated in vacuo. The residue is purified by silica gel column chromatography (n-hexane-ethyl acetate gradient) to afford 4-(2-Methoxy-ethoxy)-1-(3-methoxy-4-nitro-phenyl)-piperidine (111 mg, 29%) as a yellow oil.

reactant | 1-(3-Methoxy-4-nitro-phenyl)-piperidin-4-ol | 1.2 mmol, 300 mg | COC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)O | C12H16N2O4
reactant | sodium hydride | 3.8 mmol, 1.52 g | [H-].[Na+]
reactant | 2-bromoethyl methyl ether | 1.6 mmol, 150 μl | COCCBr | C3H7BrO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(2-Methoxy-ethoxy)-1-(3-methoxy-4-nitro-phenyl)-piperidine | 111 mg, 29% | COCCOC1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C15H22N2O5
